US07235667B2
4-(2-nitro-4,5-dimethylphenoxymethyl)-3-methylbenzoic acid methyl ester
Under atmosphere of argon, a mixture of 2-nitro-4,5-dimethylphenol (4 g), DMF (100 ml), potassium carbonate (6.6 g) and 4-mesyloxymethyl-3-methylbenzoic acid methyl ester (6.8 g) were stirred for 15 minutes at 60° C. After the termination of reaction, the mixture was cooled and poured into iced water. The mixture was extracted with ethyl acetate-hexane. The organic layer was washed, dried, concentrated under reduced pressure to give the title compound (7.22 g) having the following physical data.

reactant | 2-nitro-4,5-dimethylphenol | 4 g | [N+](=O)([O-])C1=C(C=C(C(=C1)C)C)O | C8H9NO3
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 6.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-mesyloxymethyl-3-methylbenzoic acid methyl ester | 6.8 g | COC(C1=CC(=C(C=C1)COS(=O)(=O)C)C)=O | C11H14O5S
solvent | water | O | H2O
product | 4-(2-nitro-4,5-dimethylphenoxymethyl)-3-methylbenzoic acid methyl ester | 7.22 g | COC(C1=CC(=C(C=C1)COC1=C(C=C(C(=C1)C)C)[N+](=O)[O-])C)=O | C18H19NO5
